US08669266B2
(iv) 4-[2-(3,3-Difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid
To a solution of 815 mg 4-[2-(3,3-Difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester in 8 ml THF were added 2.2 ml aqueous NaOH (1 M) at 0° C. After 2 h the mixture was brought to pH 4 by using Amberlite IR-120 ion exchange resin. The reaction mixture was filtered and concentrated and the crude product obtained used in the next step without further purification. Yield: 658 mg.

reactant | 4-[2-(3,3-Difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester | 815 mg | COC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1CC(CC1)(F)F)C | C18H18F2N2O4
reactant | NaOH | 1 M, 2.2 ml | [OH-].[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 4-[2-(3,3-Difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid | FC1(CN(CC1)C(COC1=CC(=NC2=CC(=CC=C12)C)C(=O)O)=O)F | C17H16F2N2O4
